US07081548B2
{circle around (1)} preparation of 2-chloro-4-nitro-6-methylaniline
2-methyl-4-nitroaniline (56.0 g, 0.368 mol) was dispersed in toluene (430 ml) in a 1 liter four-neck flask. Tertiary butyl hypochloride (46.0 g, 0.423 mol) was added dropwise thereto, while cooled in iced water and stirred. The mixture was stirred at room temperature for 3 hours. The solids were filtered and washed three times with 200 ml of a 50% aqueous ethanol three times. They were then dried at 40° C. at a reduced pressure to obtain 55.33 g of a yellow solid (production yield 80%). The yellow solid was used in the subsequent step without purification.

reactant | 2-methyl-4-nitroaniline | 0.368 mol, 56.0 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
reactant | Tertiary butyl hypochloride | 0.423 mol, 46.0 g | ClOC(C)(C)C | C4H9ClO
solvent | toluene | 430 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-chloro-4-nitro-6-methylaniline | 55.33 g, yield 80% | ClC1=C(N)C(=CC(=C1)[N+](=O)[O-])C | C7H7ClN2O2
